US05925630
A solution of 3α-hydroxy-17β-methoxy-5β-androstane (250 mg, 0.82 mmol) in dry pyridine (2 mL) was treated with isobutyryl chloride (0.12 mL, 1.15 mmol), and N,N-dimethylaminopyridine (5 mg) at 5° C. After stirring the mixture at 5-10° C. for 1 hr the mixture was quenched with HCl solution (0.5N, 25 mL). The mixture was extracted with EtOAc. The organic layer was washed with dil. HCl, water, and brine. After drying over anhyd. MgSO4 the solution was filtered and evaporated to yield the crude product. This crude product was then dissolved in a small amount of CH2Cl2 and poured on a column of silica gel. Elution with hexane:acetone mixture (9:1) gave 3α-isobutyryloxy-17β-methoxy-5β-androstane (266 mg); mp 82-87° C.; TLC Rf (hexane:acetone 9:1)=0.6.

reactant | 3α-hydroxy-17β-methoxy-5β-androstane | 0.82 mmol, 250 mg | O[C@H]1C[C@H]2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)OC | C20H34O2
reactant | isobutyryl chloride | 1.15 mmol, 0.12 mL | C(C(C)C)(=O)Cl | C4H7ClO
solvent | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 3α-isobutyryloxy-17β-methoxy-5β-androstane | 266 mg | C(C(C)C)(=O)O[C@H]1C[C@H]2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)OC | C24H40O3
